US04579916
N-(4'-Hydroxyphenyl)-allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboximide
408 g of a mixture of isomers of allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride are heated with 238.26 g of 4-aminophenol to 200° C., the pressure is reduced to 2.7 Pa and the mixture is kept for 1 hour under these conditions. This gives 535 g of a red solid resin (87.7% of theory) having a glass transition temperature of 58° C.

reactant | allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | 4-aminophenol | 238.26 g | NC1=CC=C(C=C1)O | C6H7NO
product | N-(4'-Hydroxyphenyl)-allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboximide | OC1=CC=C(C=C1)N1C(=O)C2C3(C=CC(C2C1=O)C3)CC=C | C18H17NO3
